US06281356B1
1-Methyl-1H-indol-6-yl-boronic acid (1.4 g, 8.0 mmol) was dissolved in ether (25 mL). Hydrogen peroxide (15%, 6 mL) was added over 5 minutes and the reaction mixture was stirred at room temperature for 1 h. The mixture was extracted with NaOH (1N, 2×50 mL) and the aqueous extracts were washed with ether (2×50 mL). The aqueous layers were cooled to 0° C. and acidified to pH 4.0 with 6 N HCl. The mixture was extracted with ether (3×100 mL) and the organic extracts were washed with water. The organic extracts were dried (MgSO4), filtered through a pad of silica gel and the pad was washed with ether (100 mL). After the filtrate was concentrated, the residue was chromatographed over silica gel with 10% to 20% ethyl acetate/hexanes to give 1-methyl-1H-indol-6-ol as a yellow solid (0.56 g, 47%).

reactant | 1-Methyl-1H-indol-6-yl-boronic acid | 8.0 mmol, 1.4 g | CN1C=CC2=CC=C(C=C12)B(O)O | C9H10BNO2
reactant | Hydrogen peroxide | 6 mL | OO | H2O2
solvent | ether | 25 mL | CCOCC | C4H10O
product | 1-methyl-1H-indol-6-ol | 0.56 g, 47% | CN1C=CC2=CC=C(C=C12)O | C9H9NO
